US07485643B2
Step H: Preparation of 7-(2-chlorophenylamino)-5,6-difluoro-3-methyl-2,3-dihydro-isoindol-1-one.
A mixture solution of 8-(2-chlorophenylamino)-6,7-difluoro-4-methyl-benzo[d][1,2]oxazin-1-one (26 mg, 0.079 mmol) and Zn (30 mg, 0.46 mmol) in AcOH (2 mL) was heated for 1 hour at 85° C. The reaction mixture was filtered and the solid was washed with additional AcOH. The filtrate was concentrated in vacuo, diluted with EtOAc, and washed with saturated aqueous NaHCO3 and water. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give the desired product (18 mg, 74%) that was used directly without further purification.

reactant | 8-(2-chlorophenylamino)-6,7-difluoro-4-methyl-benzo[d][1,2]oxazin-1-one | 0.079 mmol, 26 mg | ClC1=C(C=CC=C1)NC1=C(C(=CC=2C(=NOC(C21)=O)C)F)F | C15H9ClF2N2O2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
catalyst | Zn | 0.46 mmol, 30 mg | [Zn] | Zn
product | 7-(2-chlorophenylamino)-5,6-difluoro-3-methyl-2,3-dihydro-isoindol-1-one | 18 mg, 74% | ClC1=C(C=CC=C1)NC=1C(=C(C=C2C(NC(C12)=O)C)F)F | C15H11ClF2N2O
